Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
urinary retention, constipation
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ y.o. M with hx of CAD (s/p CABG ___, HTN, chronic lower 
back pain, presenting with 4 days of constipation, back pain, 
and urinary retention x days. Pt reports that he was in his 
usual state of health until several days ago when he noticed 
generalized malaise and chills as well as decreased appetite. He 
took his temperature at home but had no fever. Shortly 
afterwards he noticed abdominal bloating and contipation but 
without abdominal pain. He does report + flatus. His niece 
recommended ___ enemas and suppositories and he tried 2 of 
each with only minimal watery stool. He now reports irritation 
around anus and reports using Kleenex frequently to the area 
when he took the enema. In addition, he has a 2 day history of 
low urine output. He states this is the first time this has 
happened to him, and he frequently attempted to void but with 
only very small amount of urine produced each time. He denies 
burning on urination or incontinence. He had not started any new 
medications, including no antihistamines. He denies blood in 
stool, hematura, no trauma, no radiation of pain. No numbness or 
tingling. No neck pain or stiffness.
.
In the ED his vitals were T 97.5, HR 70, BP 107/59, RR 24, O2 
100% RA. A Foley catheter was placed - 260cc output. Rectal exam 
in the ED showed guiac negative stool (small amount), nl 
sphincter tone, tender to examination but with no clear defect 
or area of fluctuance. He was given 1L NS, morphine 2mg IV x 2, 
and ativan 2mg IV x 1.
 
Past Medical History:
Hypertensive Encephalopathy  
Vascular Dementia  
Subcortical WMD w/ Brain atrophy  
CAD s/p CABG, LIMA->LAD, SVG->PDA, SVG-> PLV, SVG->D1 (___)
LV Diastolic Dysfunction  
Labile hypertension.  
CRF Stage IV - Proteinuria  
Osteoarthritis  
Anemia of CKD  
S/P Vagotomy (? ___ - ___ for stomach ulcers).  
S/P Cholecystectomy  
Hyperlipidemia  
Lumbo-Sacral DJD  
Peripheral Neuropathy  
Depression  
Nephrolithiasis  

 
Social History:
___
Family History:
His mother died of a stroke at age ___, dad had brain surgery for 
a tumor and died as a result of it. One sister has ___ 
disease, and one sister had a massive MI. 

 
Physical Exam:
Vitals- T 96.6, BP 134/80, HR 72, RR 18, O2 96% on 2L
General: Pt sleepy, but able to answer questions
HEENT: NCAT, PERRLA, EOMI, anicteric, MMM, no oropharyngeal 
lesions/exudates
Neck: No LAD, supple, no thyromegaly, no JVD
Lungs: CTA b/l, no wheezes, rales, or rhonchi
Heart: RRR, nl S1, S2, III/VI SEM > RUSB
Abd: Soft, NT, mild distension, ?stool palpable LLQ, no guarding 
or rebound tenderness. Rectal not repeated due to tenderness.
Ext: No peripheral edema, 2+ bp b/l
Neuro: AAOx3, CN ___ intact, motor ___ ___ ___ symmetric, 
sensation to light touch intact, toes downdoing

 
Pertinent Results:
Labs on admission:
Na 133, K 4.8, Cl 98, HCO3 18, BUN 82, Creat 7.5, Gluc 121
.
WBC 8.9, Hgb 7.7, HCT 22.3, Plt 395 (N 81.5, L 9.8, M 6.2, E 
2.2, Bas 0.3)
.
U/A: sm leuk, sm blood, ___ WBC, few bacteria, 100 protein
Urine cx: pending
.
Renal U/S: IMPRESSION:  Stable right parenchymal calculus with 
bilateral renal cysts.  
.
ABD XR: There is extensive fecal loading throughout the colon.  
No dilated 
loops of small bowel are evident.  Stool is noted in the rectal 
vault. There is no free air. IMPRESSION:  Non-obstructive bowel 
gas pattern.  Extensive fecal loading likely due to 
constipation. 
.
SPEP: No specific abnormalities seen.
UPEP: negative for ___ protein. Multiple protein bands, 
predominantly albumin, with no monoclonal immunoglobulin seen.
.
___ CXR: IMPRESSION:  Fluid overload compared to prior, but 
not fulminant failure.
___ CXR: In comparison with study of ___, there has been 
dramatic increase in pulmonary opacifications that have a 
predominantly reticular character, consistent with the clinical 
impression of acute pulmonary edema. In view of the history of 
fever, the possibility of some areas of supervening 
consolidation cannot be unequivocally excluded. 
.
___ Retic count 2.0%, RPI = 1.02
___ Retic count 2.2%, RPI = 1.___ssessment/Plan: ___ yo man with CAD (s/p CABG), vascular 
dementia, CRF (Stage IV), HTN presenting with acute anemia, 
urinary retention, acute on chronic renal failure and 
constipation.
.
# Acute on chronic renal failure: The patient was admitted to 
the medicine service. A renal ultrasound showed no evidence of 
hydronephrosis. A Foley catheter was placed yielding 250cc of 
urine. He continued to have good urine output for the remainder 
of his hospital stay. He was evaluated by the nephrology team 
upon admission. Initially his antihypertensives were held to 
ensure good renal perfusion and he has SBPs up to the 150s-170s. 
Upon discharge he was restarted on doxazosin and labetalol, but 
amlodipine was held.
His urine was examined and rare muddy brown casts were seen, 
consistent with possible ATN. This was thought to be secondary 
to his recent history of using multiple ___ enemas for 
constipation. His creatinine slowly improved throughout his 
stay, starting at 7.5 --> 5.3. Per renal/patient report, he is a 
transplant candidate and his daughter a potential donor and a 
kidney transplant may occur in the next few months. No fistula 
was placed at this time.
.
# Anemia: Upon admission the patient's hematocrit was found to 
be 22.3. He was given 2 units of pRBCs with moderate response. 
He was profoundly iron deficient and given IV iron with po iron 
as an outpatient. His EPO was given in the hospital at 10,000 
units three times per week. His hematocrit rose to 26.5. He did 
have several guiac negative stool samples with 1 guiac positive 
result and may require outpatient colonoscopy.
.
# Constipation: The patient was treated with an aggresive bowel 
regimen (no enemas or suppositories) with lactulose and senna 
with relief of his constipation.
.
# Urinary retention: The Foley catheter was removed and he was 
able to urinate without difficulty.

# UTI: The patient became febrile and a urine culture showed 
coag negative staph sensitive to levofloxacin. Also with cough 
and CXR with ? edema and possible pneumonia. He was treated with 
a 10 day course of levofloxacin.

# Code status- Patient was full code.
 
Medications on Admission:
AGGRENOX ___ mg--1 cap(s) by mouth twice a day
Amlodipine 10 mg--1 tablet(s) by mouth once a day
Aranesp (Polysorbate) 60 mcg/0.3 mL--inject 1 s/c every 3 weeks
CALCITRIOL 0.25 mcg--1 capsule(s) by mouth 1 tab on ___, th; 2 on
mwf
CELEXA 40 mg--1 tablet(s) by mouth once a day
DOXAZOSIN 4 mg--1 tablet(s) by mouth twice a day
FERROUS SULFATE 325 mg (65 mg)--1 tablet(s) by mouth once a day
MULTIVITAMIN  --1 capsule(s) by mouth once a day
NEURONTIN 300 mg--300 capsule(s) by mouth 1 capsule at bedtime
NITROSTAT 0.3MG--Place one tablet under tongue for chest pain if
needed
PLAVIX 75 mg--1 tablet(s) by mouth once a day
PROTONIX 40 mg--1 tablet(s) by mouth once a day
SIMVASTATIN 10 mg--1 tablet(s) by mouth at bedtime
LABETALOL 100 mg--one tablet(s) by mouth twice a day
RENAGEL - started 4 days ago

 
Discharge Medications:
1. Dipyridamole-Aspirin 200-25 mg Cap, Multiphasic Release 12 hr 
Sig: One (1) Cap PO BID (2 times a day).  
2. Calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
3. Citalopram 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
4. Hexavitamin     Tablet Sig: One (1) Cap PO DAILY (Daily).  
5. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO HS (at 
bedtime).  
6. Nitroglycerin 0.3 mg Tablet, Sublingual Sig: One (1) Tablet, 
Sublingual Sublingual PRN (as needed) as needed for chest pain.  

7. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
8. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
9. Sevelamer HCl 800 mg Tablet Sig: One (1) Tablet PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  
10. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
11. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q4H 
(every 4 hours) as needed for pain.  
12. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
13. Lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO at 
bedtime as needed for constipation.  
14. Zolpidem 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime). 
 
15. Epoetin Alfa 10,000 unit/mL Solution Sig: One (1)  Injection 
QMOWEFR (___).  
16. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
17. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
1) Acute Renal Failure
Secondary:
2) Constipation
3) Anemia

 
Discharge Condition:
Afebrile, ambulating without assistance, displaying normal vital 
signs, resting O2 sat 95% on room air, with regular bowel 
movements and good urine output daily.

 
Discharge Instructions:
You came into the hospital with a ___ day history of 
constipation and low urine output, and were diagnosed with a 
condition called acute renal failure, as well as anemia due to 
your kidney disease.
.
We treated your constipation with medications which improved 
your bowel function and softened your stool. Your constipation 
was likely due to some of the medications that you were taking, 
and we have added stool softeners to your regimen that should 
prevent this from happening in future.
We found that you were anemic, and also had a low level of iron 
in your blood. We treated this with a blood transfusion, as well 
as increasing your dose of a medication that you were already 
taking. 
.
You should continue to take all of your previously prescribed 
medications. We have added 3 new medications to your regimen, 
Senokot, Dulcolax and lactulose which you should take to improve 
your bowel movements. We have also changed your Aranesp to 
Epogen at a different dosage. 
.
If you experience shortness of breath, chest pains, dizziness or 
lightheadedness, fevers or chills, nausea or vomiting, blood in 
your stool, vomit or urine, or persistent exhaustion, you should 
seek medical attention immediately.
 
Followup Instructions:
___